US08304425B2
To a solution of (3R,4R)-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.205 g, 0.46 mmol) in DCM (10 mL) was added HCl 4M in dioxane (1.15 mL, 4.6 mmol) under N2. The mixture was stirred overnight at room temperature. The solvent was removed under reduced pressure and the residue washed with DCM. Re-crystallization from EtOH gave 1-[(3R,4R)-4-(1H-Indol-3-yl)-pyrrolidin-3-yl]-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline HCl salt as a white solid. M.p.=dec.>70° C.; 1H NMR (400 MHz, DMSO-d6) δ: 10.95 (s, 1H), 9.24 (s, 1H), 7.54 (d, J=8.0 Hz, 1H), 7.39 (d, J=8.0 Hz, 1H), 7.32-7.26 (m, 3H), 7.05 (t, J=7.6 Hz, 1H), 6.94 (t, J=7.6 Hz, 1H), 6.87 (t, J=7.6 Hz, 1H), 6.80 (d, J=7.2 Hz, 1H), 4.03 (m, 4H), 3.85 (br s, 1H), 3.52-3.35 (m, 3H), 2.85 (t, J=6.0 Hz, 2H), 2.05 (m, 2H). LCMS: m/e 342.17 [M+H].

reactant | (3R,4R)-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.46 mmol, 0.205 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C1=CNC2=CC=CC=C12)C1=CN2CCCC3=CC=CC1=C23 | C28H31N3O2
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 4.6 mmol, 1.15 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-[(3R,4R)-4-(1H-Indol-3-yl)-pyrrolidin-3-yl]-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline HCl salt | Cl.N1C=C(C2=CC=CC=C12)[C@H]1[C@@H](CNC1)C1=CN2CCCC3=CC=CC1=C23 | InChI=1S/C23H23N3.ClH/c1-2-9-22-16(7-1)20(13-25-22)18-11-24-12-19(18)21-14-26-10-4-6-15-5-3-8-17(21)23(15)26;/h1-3,5,7-9,13-14,18-19,24-25H,4,6,10-12H2;1H/t18-,19-;/m1./s1
